US07576135B2
2,2-dichloro-N-(5-fluoropyridin-2-yl)acetamide
To 2-amino-5-fluoropyridine (250 mg) in ethyl acetate (10 mL), dichloroacetyl chloride (279 μL) was added at room temperature, followed by stirring at 60-70° C. for 2.5 hours. The reaction mixture was cooled, and saturated aqueous sodium hydrogencarbonate was added thereto for partitioning the mixture. The resultant organic layer was dried over magnesium sulfate anhydrate. The solvent was distilled away under reduced pressure, to thereby give the title compound (438 mg) as acrude product.

reactant | 2-amino-5-fluoropyridine | 250 mg | NC1=NC=C(C=C1)F | C5H5FN2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloroacetyl chloride | 279 μL | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2,2-dichloro-N-(5-fluoropyridin-2-yl)acetamide | 438 mg | ClC(C(=O)NC1=NC=C(C=C1)F)Cl | C7H5Cl2FN2O
